US08039469B2
Preparation of 1-[4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)phenyl]-3-(4-methylphenyl)urea
Starting from 4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)aniline (0.140 g 0.40 mmoles) and 4-methylphenyl isocyanate (74 mg, 0.56 mmoles), the title compound was isolated as a white solid. Yield; 65 mg (33%) (M+H)=476.4.

reactant | 4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)aniline | 0.40 mmoles, 0.140 g | N1(CCOCC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(N)C=C1 | C17H22N6O2
reactant | 4-methylphenyl isocyanate | 0.56 mmoles, 74 mg | CC1=CC=C(C=C1)N=C=O | C8H7NO
product | 1-[4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)phenyl]-3-(4-methylphenyl)urea | N1(CCOCC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C | C25H29N7O3
